US06982348B2
To a solution of ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]propionate (3.84 g, 8.52 mmol) in tetrahydrofuran-ethanol (20 ml—20 ml) was added 1N sodium hydroxide (17 ml, 17 mmol) at room temperature, and the mixture was stirred overnight at room temperature. After completion of the reaction, the organic solvent was evaporated under reduced pressure, and the aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to give (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]propionic acid (2.85 g, 79%) as colorless crystals.

reactant | ethyl (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]propionate | 8.52 mmol, 3.84 g | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F)O | C21H20ClF5O3
reactant | sodium hydroxide | 17 mmol, 1N, 17 ml | [OH-].[Na+]
solvent | tetrahydrofuran-ethanol | 20 ml—20 ml | O1C(CCC1)CCO | C6H12O2
product | (2RS,3RS)-3-(3-chlorophenyl)-3-hydroxy-2-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]propionic acid | 2.85 g, 79% | ClC=1C=C(C=CC1)C(C(C(=O)O)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F)O | C19H16ClF5O3
